US04443623
Aqueous glyoxylic acid (50%) in the amount of 1,980 parts (13.3 moles) and butanol in the amount of 1,210 parts (16.4 moles) are heated at 55°-60° C. and stripped under vacuum. Butanol in the amount of 1,210 parts (16.4 moles) is added and the reaction is heated at 80°-85° C. under reflux at reduced pressure for two hours. Volatiles are removed at 55°-60° C. under vacuum. Butanol in the amount of 807 parts (10.9 moles) is added and the reaction mixture is refluxed at 80°-85° C. under reduced pressure for six hours. Volatiles are again removed at 55°-60° C. under vacuum to yield 2,850 parts of butyl glyoxylate butyl hemiacetal containing about 2% butyl glyoxylate dibutyl acetal. To the crude hemiacetal (765 parts 3.0 moles) are added monomethyl ether of hydroquinone (0.65 parts and acrylamide (213 parts 3.0 moles). The reaction mixture is heated at 70°-75° C. for three hours. Three intermediate strippings under vacuum removes byproduct butanol (164 parts 2.2 moles). Methanol (870 parts, 25.5 moles) containing sulfuric acid (5.5 parts, 0.056 mole) is added. The reaction mixture is refluxed for 30 minutes and then wet methanol and butane were allowed to distill while fresh methanol (475 parts, 14.0 moles) is added in proportions approximately equal to the amount removed. The reaction mixture is then heated under reflux for an additional two hours. Treatment as described in Example 1 and neutralization of sulfuric acid catalyst with lithium oxide yielded 741 parts of orange colored liquid. Analysis of proton magnetic resonance shows the product contains approximately 90-95% methyl ether and methyl ester groups.

reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | Butanol | C(CCC)O | C4H10O
product | butyl glyoxylate butyl hemiacetal | about 2% | C(CCC)OC(C(=O)OCCCC)O | C10H20O4
